US09085555B2
5-Ethyl-1H-pyrazolo[3,4-c]pyridine
Triethylaluminum (21.7 mL, 40.4 mmol, 25 wt % solution in toluene) was added to a vigorously stirred solution of 5-bromo-1H-pyrazolo[3,4-c]pyridine [929617-35-6] (4.00 g, 20.2 mmol) and Pd(PPh3)4 (1.17 g, 1.01 mmol) in THF (100 mL) under argon. The reaction mixture was stirred at 65° C. for 60 h. The mixture was cooled to RT and poured into sat. aq. NH4Cl. The resulting suspension was filtered, the solid was washed with water and discarded. The filtrate and combined washings were extracted with EtOAc (3×). The combined organic extracts were washed with brine, then dried (Phase separator) and concentrated under reduced pressure. The residual oil was purified by flash column chromatography on silica gel (EtOAc/c-hexane 50:50, then 75:25, then 100:0). TLC, Rf (c-hexane/EtOAc 1:3)=0.22; MS (LC-MS): 148 [M+H]+, tR (HPLC conditions k): 0.71 min.

reactant | Triethylaluminum | 40.4 mmol, 21.7 mL | C(C)[Al](CC)CC
reactant | 5-bromo-1H-pyrazolo[3,4-c]pyridine | 20.2 mmol, 4.00 g | BrC=1C=C2C(=CN1)NN=C2 | C6H4BrN3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 1.01 mmol, 1.17 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Ethyl-1H-pyrazolo[3,4-c]pyridine | C(C)C=1C=C2C(=CN1)NN=C2 | C8H9N3
